### PR TITLE
[Merged by Bors] - feat: a subcomplex of a classical CW complex is a CW complex

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR proves that any subcomplex of a (relative classical) CW complex is again a CW complex. 

---

While the definition of subcomplexes is in a different file (`Toplogy.CWComplex.Classical.Basic`) we create a separate file for subcomplexes because we will later add more proofs (such as the type of subcomplexes of a CW complex being a `CompletelyDistribLattice`).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 1]
```diff
@@ -0,0 +1,180 @@
...
+    D ∪ ⋃ (n : ℕ) (j : E.I n), closedCell (C := C) n j = E := by
+  apply subset_antisymm
+  · apply union_subset
+    · rw [← Subcomplex.union (C := C) (D := D) (E := E)]
+      exact subset_union_left
+    · apply iUnion_subset fun n ↦ iUnion_subset fun i ↦ ?_
+      rw [← closure_openCell_eq_closedCell, E.closed.closure_subset_iff, ← E.union]
+      apply subset_union_of_subset_right
+      exact subset_iUnion_of_subset n
+        (subset_iUnion (fun (i : ↑(E.I n)) ↦ openCell (C := C) (D := D) n ↑i) i)
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
  · apply union_subset E.base_subset
    apply iUnion₂_subset fun n i ↦ ?_
    rw [← closure_openCell_eq_closedCell, E.closed.closure_subset_iff, ← E.union]
    apply subset_union_of_subset_right
    exact subset_iUnion₂ (s := fun n (i : E.I n) ↦ openCell n (i : cell C n)) n i
```
I think the frequent use of `Subcomplex.union` suggests there should be lemmas saying that if `i∈ E.I n` then `openCell C n i`, `closedCell C n i` and `cellFrontier C n i` are subsets of `E`.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 2]
```diff
@@ -0,0 +1,180 @@
...
+  · simp_rw [← E.union]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
  · rw [← E.union]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 3]
```diff
@@ -0,0 +1,180 @@
...
+    apply union_subset_union_right
+    apply iUnion_mono fun n ↦ iUnion_mono fun (i : ↑(E.I n)) ↦ ?_
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    apply iUnion₂_mono fun n i ↦ ?_
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 4]
```diff
@@ -0,0 +1,180 @@
...
+  continuousOn_symm n i := continuousOn_symm (C := C) n i
+  pairwiseDisjoint' := by
+    simp only [PairwiseDisjoint, Set.Pairwise, mem_univ, ne_eq, Function.onFun,
+      disjoint_iff_inter_eq_empty, true_implies, Sigma.forall, Subtype.forall]
+    intro n j _ m i _ eq
+    refine (disjoint_openCell_of_ne ?_).inter_eq
+    simp_all only [Sigma.mk.inj_iff, not_and, ne_eq]
+    intro a
+    subst a
+    simp_all
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    intro ⟨n, i⟩ _ ⟨m, j⟩ _ hne
    refine @pairwiseDisjoint' _ _ C D _ ⟨n, i⟩ trivial ⟨m, j⟩ trivial ?_
    exact Function.injective_id.sigma_map (fun _ ↦ Subtype.val_injective) |>.ne hne
```
Although I agree that `disjoint_openCell_of_ne` is generally a better interface, in this case I think it's just more natural to appeal to `pairwiseDisjoint'` directly.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 5]
```diff
@@ -0,0 +1,180 @@
...
+  disjointBase' n i := disjointBase' (C := C) n i
+  mapsTo := by
+    intro n i
+    rcases cellFrontier_subset_finite_openCell (C := C) n i with ⟨J, hJ⟩
+    use fun m ↦ Finset.preimage (J m) Subtype.val (by simp [InjOn])
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    use fun m ↦ Finset.preimage (J m) Subtype.val Subtype.val_injective.injOn
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 6]
```diff
@@ -0,0 +1,180 @@
...
+    intro x hx
+    specialize hJ hx
+    simp_rw [iUnion_coe_set, mem_union, mem_iUnion, exists_prop, exists_and_right,
+      Decidable.or_iff_not_imp_left] at hJ ⊢
+    intro h
+    specialize hJ h
+    obtain ⟨m, hmn, j, hj, hxj⟩ := hJ
+    use m, hmn, j
+    refine ⟨?_, openCell_subset_closedCell _ _ hxj⟩
+    suffices j ∈ E.I m from ⟨this, by simp [hj]⟩
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    simp_rw [iUnion_coe_set, mem_union, mem_iUnion, Finset.mem_preimage, exists_prop,
      Decidable.or_iff_not_imp_left] at hJ ⊢
    intro h
    specialize hJ h
    obtain ⟨m, hmn, j, hj, hxj⟩ := hJ
    suffices j ∈ E.I m from ⟨m, hmn, j, this, hj, openCell_subset_closedCell _ _ hxj⟩
```
Putting `Finset.mem_preimage` in the first `simp_rw` saves you the final `simp` call

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 7]
```diff
@@ -0,0 +1,180 @@
...
+    have : x ∈ (E : Set X) := by
+      rw [← union_closedCell]
+      right
+      refine mem_of_subset_of_mem ?_ hx
+      refine subset_iUnion_of_subset n (subset_iUnion_of_subset i ?_)
+      exact cellFrontier_subset_closedCell (C := C) n i
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: As I said above, this should be a generic lemma I think.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 8]
```diff
@@ -0,0 +1,180 @@
...
+    simp only [← E.union, iUnion_coe_set, mem_union, h, mem_iUnion, exists_prop,
+      false_or] at this
+    obtain ⟨l, o, hxo⟩ := this
+    suffices (⟨m, j⟩ : Σ n, cell C n) = ⟨l, ↑o⟩ by aesop
+    apply eq_of_not_disjoint_openCell
+    rw [not_disjoint_iff]
+    use x
+    exact ⟨hxj, hxo.2⟩
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Here you're really redoing the proof of `Subcomplex.disjoint_openCell_subcomplex_of_not_mem`. Instead, you can do:
```suggestion
    by_contra hj'
    exact E.disjoint_openCell_subcomplex_of_not_mem hj' |>.notMem_of_mem_left hxj this
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+  closed' A hA h := by
+    apply isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell
+      (subset_trans hA (subset_complex (C := C) E)) h.2
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean:104]:
```suggestion
      (subset_trans hA (subset_complex (C := C) E)) h.2
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 10]
```diff
@@ -0,0 +1,180 @@
...
+    intro n _ j
+    by_cases hj : j ∈ E.I n
+    · exact Or.intro_right _ (h.1 n ⟨j, hj⟩)
+    left
+    suffices A ∩ openCell n j = ∅ from this ▸ isClosed_empty
+    rw [← disjoint_iff_inter_eq_empty]
+    exact (disjoint_openCell_subcomplex_of_not_mem E hj).symm.mono_left hA
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Do you think it would be worth proving a special case of `isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell` assuming directly that either `A` intersects the closed cell in a closed way, or `A` is disjoint from the open cell? Maybe that's a bit overkill, but the special case was already used in your PR defining subcomplexes.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 11]
```diff
@@ -0,0 +1,180 @@
...
+instance RelCWComplex.Subcomplex.finiteDimensional_subcomplex_of_finiteDimensional
+    [T2Space X] [RelCWComplex C D] [FiniteDimensional C] (E : Subcomplex C) :
+    FiniteDimensional (E : Set X) where
+  eventually_isEmpty_cell := by
+    have := FiniteDimensional.eventually_isEmpty_cell (C := C) (D := D)
+    simp only [Filter.eventually_atTop, ge_iff_le] at this ⊢
+    obtain ⟨n, hn⟩ := this
+    use n
+    intro b nleb
+    simp [isEmpty_subtype, hn b nleb]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    filter_upwards [FiniteDimensional.eventually_isEmpty_cell (C := C) (D := D)] with n hn
    simp [isEmpty_subtype]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 10 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I went through my project and I actually only ever use this lemma in the case where `A` is disjoint from the open cell. I have added that specialzed lemma. Do you think I should delete the general version?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 12]
```diff
@@ -475,13 +475,34 @@ lemma RelCWComplex.isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedC
...
 /-- If for every cell either `A ∩ openCell n j` or `A ∩ closedCell n j` is closed then
 `A` is closed. -/
 lemma CWComplex.isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell
     [CWComplex C] [T2Space X] {A : Set X} (hAC : A ⊆ C) (h : ∀ n (_ : 0 < n), ∀ (j : cell C n),
     IsClosed (A ∩ openCell n j) ∨ IsClosed (A ∩ closedCell n j)) : IsClosed A :=
   RelCWComplex.isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell hAC (by simp) h
 
+/-- If for every cell either `A ∩ openCell n j` is empty or `A ∩ closedCell n j` is closed then
+`A` is closed. -/
+lemma CWComplex.isClosed_of_disjoit_openCell_or_isClosed_inter_closedCell
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
lemma CWComplex.isClosed_of_disjoint_openCell_or_isClosed_inter_closedCell
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 10 above)
Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I'm not sure. My initial instinct was "oh I think it can be useful" but indeed I'm having troubles imagining an example where it would be more efficient... Is the general lemma coming from a textbook of did you coin it during the formalization?

Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: No, this is just something I came up with while formalizing.

Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Then I would think removing it is fine. But this is not a strong opinion, I'm fine with it if you prefer to keep it.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 13]
```diff
@@ -638,10 +659,7 @@ def RelCWComplex.Subcomplex.mk' [T2Space X] (C : Set X) {D : Set X} [RelCWComple
...
       exact closedCell_subset n ⟨j, h⟩
     · left
-      suffices E ∩ openCell n j = ∅ by
-        rw [this]
-        exact isClosed_empty
-      simp_rw [← union, union_inter_distrib_right, iUnion_inter]
+      simp_rw [disjoint_iff_inter_eq_empty, ← union, union_inter_distrib_right, iUnion_inter]
       apply sup_eq_bot_iff.mpr ⟨(disjointBase n j).symm.inter_eq, ?_⟩
       apply iUnion_eq_empty.2 fun m ↦ iUnion_eq_empty.2 fun i ↦ ?_
       exact (disjoint_openCell_of_ne (by aesop)).inter_eq
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: While you're at it:
```suggestion
      simp_rw [← union, disjoint_union_left, disjoint_iUnion_left]
      exact ⟨disjointBase n j |>.symm, fun _ _ ↦ disjoint_openCell_of_ne (by aesop)⟩
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 14]
```diff
@@ -0,0 +1,168 @@
...
+    (E : Subcomplex C) {n : ℕ} {i : cell C n} (hi : i ∈ E.I n) :
+    cellFrontier n i ⊆ E :=
+  (cellFrontier_subset_closedCell n i).trans (closedCell_subset_of_mem E hi)
+
+/-- A subcomplex is the union of its closed cells and its base. -/
+lemma RelCWComplex.Subcomplex.union_closedCell [T2Space X] [RelCWComplex C D] (E : Subcomplex C) :
+    D ∪ ⋃ (n : ℕ) (j : E.I n), closedCell (C := C) n j = E := by
+  apply subset_antisymm
+  · apply union_subset E.base_subset
+    apply iUnion_subset fun n ↦ iUnion_subset fun i ↦ closedCell_subset_of_mem E i.2
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    exact iUnion₂_subset fun n i ↦ closedCell_subset_of_mem E i.2
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 15]
```diff
@@ -0,0 +1,168 @@
...
+@[simp]
+lemma RelCWComplex.Subcomplex.cellFrontier_eq [T2Space X] [RelCWComplex C D] (E : Subcomplex C)
+    (n : ℕ) (i : E.I n) : cellFrontier (C := E) n i = cellFrontier n (i : cell C n) := by
+  rfl
+
+instance RelCWComplex.Subcomplex.finiteType_subcomplex_of_finiteType [T2Space X]
+    [RelCWComplex C D] [FiniteType C] (E : Subcomplex C) : FiniteType (E : Set X) where
+  finite_cell n :=
+    let _ := FiniteType.finite_cell (C := C) (D := D) n
+    toFinite (E.I n)
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    Subtype.finite
```
This is a bit of a nitpick, but I'd prefer to avoid abusing the fact that `Set.Finite` is *defined* as finiteness of the subtype.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 10 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Then I think I will leave it until I find the time to think if the current general version can ever be applied.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 16]
```diff
@@ -0,0 +1,168 @@
...
+/-- A subcomplex of a finite CW complex is again finite. -/
+instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWComplex C D]
+    [Finite C] (E : Subcomplex C) : Finite (E : Set X) :=
+  finite_of_finiteDimensional_finiteType _
+
+namespace CWComplex.Subcomplex
+
+export RelCWComplex.Subcomplex (closedCell_subset_of_mem openCell_subset_of_mem
+  cellFrontier_subset_of_mem subset_complex finiteType_subcomplex_of_finiteType
+  finiteDimensional_subcomplex_of_finiteDimensional finite_subcomplex_of_finite)
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Isn't `disjoint_openCell_subcomplex_of_not_mem` missing here?

**Review by ADedecker — APPROVED** [review]
Sorry for the delay, I had a computer issue in the last few days.
Thanks!

bors d+
